US07919496B2
The mixture of hydrazine hydrate (0.584 mL, 12.03 mmol) and [4-(imidazole-1-carbothioyl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone (4.03 g, 10.94 mmol) in anhydrous ethanol was refluxed for 3 hours. The reaction mixture was cooled to room temperature and kept in the fridge overnight. The precipitate formed was collected by filtration and washed with ethanol, dried in vacuo to yield 4-(2-trifluoromethylbenzoyl)piperazine-1-carbothioic acid hydrazide in 60% yield (2.20 g). 1H NMR (500 MHz, CDCl3) δ 7.72 (d, J=7.8 Hz, 1H), 7.62 (dd, J=7.5, 7.5 Hz, 1H), 7.55 (dd, J=7.5, 7.5 Hz 1H), 7.33 (d, J=7.5 Hz, 1H), 3.70-4.00 (m, 8H). MS (ES+) m/z 333 (M+1).

reactant | hydrazine hydrate | 12.03 mmol, 0.584 mL | O.NN
reactant | [4-(imidazole-1-carbothioyl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 10.94 mmol, 4.03 g | N1(C=NC=C1)C(=S)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H15F3N4OS
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-trifluoromethylbenzoyl)piperazine-1-carbothioic acid hydrazide | 60% yield | FC(C1=C(C(=O)N2CCN(CC2)C(=S)NN)C=CC=C1)(F)F | C13H15F3N4OS
